US05817693
b) 1-Bromo-2-(2-benzyloxyeth-1-yloxy)-4-methoxybenzene
A mixture of 1-bromo-2-hydroxy-4-methoxy benzene (68.3 g, 0.336 moles), anhydrous potassium carbonate (51.2 g 0.37 moles) and 0.5 L of N,N-dimethylformamide was heated to 65° C. Benzyloxyethylbromide (76.0 g, 0.353 moles) was added dropwise over 0.5 hr. After stirring for 1.5 hr. at 65° C., the reaction mixture was cooled and filtered. The filtrate was diluted with 1 L of deionized water, and extracted with 3×0.5 L ethyl acetate. The organic extracts were washed with brine, dried over MgSO4, and concentrated in vacuo. Distillation gave 93 g (83%) of product as a yellow liquid (b.p. 170°-175° C., 0.5 mm).

reactant | 1-bromo-2-hydroxy-4-methoxy benzene | 0.336 moles, 68.3 g | BrC1=C(C=C(C=C1)OC)O | C7H7BrO2
reactant | potassium carbonate | 0.37 moles, 51.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | Benzyloxyethylbromide | 0.353 moles, 76.0 g | C(C1=CC=CC=C1)OCCBr | C9H11BrO
solvent | N,N-dimethylformamide | 0.5 L | CN(C=O)C | C3H7NO
product | 1-Bromo-2-(2-benzyloxyeth-1-yloxy)-4-methoxybenzene | 93 g, 83% | BrC1=C(C=C(C=C1)OC)OCCOCC1=CC=CC=C1 | C16H17BrO3
